US06600045B2
treating said cis-4-amino-2-ethyl-6-trifluoromethyl-3,4,-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester first with 3,5-bis-trifluoromethyl-benzaldehyde under acidic conditions followed by a reducing agent to form cis-4-(3,5-bis-trifluoromethyl-benzylamino)-2-ethyl-6-trifluoromethyl-3,4,-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester;

reactant | cis-4-amino-2-ethyl-6-trifluoromethyl-3,4,-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(F)(F)F)N)CC | C16H21F3N2O2
reactant | 3,5-bis-trifluoromethyl-benzaldehyde | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
product | cis-4-(3,5-bis-trifluoromethyl-benzylamino)-2-ethyl-6-trifluoromethyl-3,4,-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(F)(F)F)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C25H25F9N2O2
